US08222273B2
Preparation of (2-chloro-4-iodophenoxy)(triisopropyl)silane
To a solution of 2-chloro-4-iodophenol (351.2 g, 1.38 moles) in toluene (1750 ml) under nitrogen, was added triethylamine (168 g, 1.66 moles), dimethylaminopyridine (8.5 g, 0.069 moles) and chlorotriisopropylsilane (320 g, 1.66 moles), then stirred for 16 hours. After this time the reaction was quenched by the addition of aqueous hydrochloric acid (2M, 1000 ml) and the organic phase washed with water (1000 ml). The solution was dried by azeotropic distillation of toluene, to give the title compound as a clear oil (497 g, 87%).

reactant | 2-chloro-4-iodophenol | 1.38 moles, 351.2 g | ClC1=C(C=CC(=C1)I)O | C6H4ClIO
reactant | triethylamine | 1.66 moles, 168 g | C(C)N(CC)CC | C6H15N
reactant | chlorotriisopropylsilane | 1.66 moles, 320 g | Cl[Si](C(C)C)(C(C)C)C(C)C | C9H21ClSi
solvent | toluene | 1750 ml | C1(=CC=CC=C1)C | C7H8
catalyst | dimethylaminopyridine | 0.069 moles, 8.5 g | CN(C)C1=NC=CC=C1 | C7H10N2
product | (2-chloro-4-iodophenoxy)(triisopropyl)silane | 497 g, 87% | ClC1=C(O[Si](C(C)C)(C(C)C)C(C)C)C=CC(=C1)I | C15H24ClIOSi
